US07144876B2
A solution of 3-(4-chloro-phenyl)-acrylonitrile (1.63 g, 10 mmol) and hydroxyamine (0.74 ml, 12 mmol) in ethanol (10 ml) was stirred at room temperature overnight. The solvent was evaporated, and the residue was purified by column chromatography (EtOAc: Hexane=1:3) to give 1.0 g (51%) of 3-(4-chloro-phenyl)-N-hydroxy-acrylamidine.

reactant | 3-(4-chloro-phenyl)-acrylonitrile | 10 mmol, 1.63 g | ClC1=CC=C(C=C1)C=CC#N | C9H6ClN
reactant | hydroxyamine | 12 mmol, 0.74 ml | ON | H3NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(4-chloro-phenyl)-N-hydroxy-acrylamidine | 1.0 g, 51% | ClC1=CC=C(C=C1)C=CC(=N)NO | C9H9ClN2O
